US06921821B2
(S)-6-Chloro-4-[1-(1-naphthalen-2-yl-ethyl)-piperdin-4-ylamino]-chromen-2-one (II-120)
To a mixture of (S)-1-(1-naphthalen-2-yl-ethyl)-piperidin-4-ylamine (0.24 g, 0.94 mmol) and diisopropylethylamine (0.34 mL, 2 mmol) in 5 mL THF was added trifluoromethanesulfonic acid 6-chloro-2-oxo-2H-chromen-4-yl ester (0.30 g, 0.93 mmol). The reaction was stirred at room temperature for about 3 hours. The reaction mixture was then washed with water, dried with MgSO4 and evaporated. The residue was purified by chromatography on silica gel with methanol/dichloromethane (2:98) to give the title compound (0.1 g, 25%). The final product was converted to the mono-HCl salt by addition of 1.0N HCl in ether to a suspension of the compound in dichloromethane. The solvent was removed by evaporation. 1H NMR of the mono-HCl salt (300 MHz, DMSO-d6) δ 1.20-1.28 (2H, m), 1.81 (3H, d, J=6.97 Hz), 1.74-2.18 (4H, m), 2.83-3.05 (2H, m), 3.30-3.80 (2H, m), 4.65-4.78 (1H, br), 5.37 (1H, s), 7.30-7.79 (5H, m), 7.92-8.16 (4H, m), 8.32 (1H, d, J=2.64 Hz), 10.09 (1H, br, s).

reactant | (S)-1-(1-naphthalen-2-yl-ethyl)-piperidin-4-ylamine | 0.94 mmol, 0.24 g | C1=C(C=CC2=CC=CC=C12)[C@H](C)N1CCC(CC1)N | C17H22N2
reactant | diisopropylethylamine | 2 mmol, 0.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic acid 6-chloro-2-oxo-2H-chromen-4-yl ester | 0.93 mmol, 0.30 g | ClC=1C=C2C(=CC(OC2=CC1)=O)OS(=O)(=O)C(F)(F)F | C10H4ClF3O5S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-6-Chloro-4-[1-(1-naphthalen-2-yl-ethyl)-piperdin-4-ylamino]-chromen-2-one | 0.1 g, 25% | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCN(CC1)[C@@H](C)C1=CC2=CC=CC=C2C=C1 | C26H25ClN2O2
